US08563565B2
(2) Synthesis of 1-(1,4-dioxepan-6-yl)-7-(2-methoxy-3,5-dimethylpyridin-4-yl)-1H-pyrazolo[4,3-c]quinolin-4(5H)-one
Iron powder (28.8 mg) was added to a solution of ethyl 1-(1,4-dioxepan-6-yl)-5-[4-(2-methoxy-3,5-dimethylpyridin-4-yl)-2-nitrophenyl]-1H-pyrazole-4-carboxylate (64 mg) in acetic acid (2 mL)-water (0.1 mL), and the reaction mixture was stirred at 80° C. for 2.5 hours in a nitrogen atmosphere. The reaction mixture was returned to room temperature, and ethyl acetate (10 mL) was added to the reaction mixture. The insoluble matter was removed by filtration through Celite™. The filtrate was concentrated under reduced pressure. A solution of the residue in ethyl acetate was sequentially washed with a saturated aqueous sodium bicarbonate solution and brine, dried over anhydrous magnesium sulfate, filtered. The filtrate was passed through a NH silica gel pad. The resulting solution was concentrated under reduced pressure. Ethyl acetate (0.3 mL) and MTBE (0.3 mL) were added to the residue. The precipitated solid was collected by filtration to give the title compound (29.1 mg).

reactant | ethyl 1-(1,4-dioxepan-6-yl)-5-[4-(2-methoxy-3,5-dimethylpyridin-4-yl)-2-nitrophenyl]-1H-pyrazole-4-carboxylate | 64 mg | O1CCOCC(C1)N1N=CC(=C1C1=C(C=C(C=C1)C1=C(C(=NC=C1C)OC)C)[N+](=O)[O-])C(=O)OCC | C25H28N4O7
reactant | water | 0.1 mL | O | H2O
reactant | ethyl acetate | 10 mL | C(C)(=O)OCC | C4H8O2
solvent | acetic acid | 2 mL | C(C)(=O)O | C2H4O2
catalyst | Iron | 28.8 mg | [Fe] | Fe
product | 1-(1,4-dioxepan-6-yl)-7-(2-methoxy-3,5-dimethylpyridin-4-yl)-1H-pyrazolo[4,3-c]quinolin-4(5H)-one | 29.1 mg | O1CCOCC(C1)N1N=CC=2C(NC=3C=C(C=CC3C21)C2=C(C(=NC=C2C)OC)C)=O | C23H24N4O4
